US20010021718A1
tert-Butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)1,2,4-oxadiazol-5-yl]hexanoate
A suspension of sodium hydride 60% suspension in mineral oil (1.52 g, 38.00 mmol) in anhydrous tetrahydrofuran (30 ml) was cooled to 0° C. and treated with a solution of tert-butyl (3R)-6-cyclohexyl-3-[3-(hydroxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate (Preparation 85) (13.40 g, 38.00 mmol) in anhydrous tetrahydrofuran (120 ml) and stirred under a nitrogen atmosphere for 30 minutes. p-Toluene sulphonyl chloride (7.25 g, 38.00 mmol) was added portionwise and the mixture was allowed to warm to room temperature over 18 hours. The solvent was removed under reduced pressure The residue was dissolved in ethyl acetate and washed with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The oil was purified by column chromatography on silica gel eluting with dichloromethane to afford the title compound (10.75 g).

reactant | sodium hydride | [H-].[Na+]
reactant | tert-butyl (3R)-6-cyclohexyl-3-[3-(hydroxymethyl)-1,2,4-oxadiazol-5-yl]hexanoate | 38.00 mmol, 13.40 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CO | C19H32N2O4
reactant | p-Toluene sulphonyl chloride | 38.00 mmol, 7.25 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | tert-Butyl (3R)-6-cyclohexyl-3-[3-({[(4-methylphenyl)sulfonyl]oxy}methyl)1,2,4-oxadiazol-5-yl]hexanoate | 10.75 g | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)COS(=O)(=O)C1=CC=C(C=C1)C | C26H38N2O6S
